US04416877
Dimethyl 2,5-dimethylbenzoylphosphonate was prepared in 80% yield by adding an equimolar amount of trimethyl phosphite to 2,5-dimethylbenzoyl chloride.

reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
reactant | 2,5-dimethylbenzoyl chloride | CC1=C(C(=O)Cl)C=C(C=C1)C | C9H9ClO
product | Dimethyl 2,5-dimethylbenzoylphosphonate | 80% yield | CC1=C(C(=O)P(OC)(OC)=O)C=C(C=C1)C | C11H15O4P
